capacitive bandpass filter

v1 1 0 file sweep_sin20_20k_5s48k.wav snd(0 0 1.0 0 0 1.0)
r1 1 2 200 
c1 2 0 5u
c2 2 33 1u
rload 33 0 1k
B3 3 0 v = v(33) * 3

.sndparam $Inputdir/test-filter.wav 48000 wav24 1.0 0.0 1.0
.sndprint tran v(1) v(3)
.tran 2.08333e-05 5.0 0 2.08333e-05
.op

.control
if $?batchmode
else
  save v(1) v(3)
  sndparam $Inputdir/test-filter.wav 48000 wav24 1.0 0.0 1.0
  tran 2.08333e-05 5.0 0 2.08333e-05
  rusage
  sndprint v(1) v(3)
  rusage
end
.endc



.end
